US04126687
A mixture of 5.4 parts of 3-(3-bromopropyl)-2(3H)-benzothiazolone, 4.5 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 3 hours with water-separator. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2-propanone. The product is filtered off and dried, yielding 2.5 parts (31%) of 5-chloro-1,3-dihydro-1-{1-[3-(2-oxo-3(2H)-benzothiazolyl)propyl]-4-piperidinyl}-2H-benzimidazol-2-one; mp. 184.1° C.

reactant | 3-(3-bromopropyl)-2(3H)-benzothiazolone | BrCCCN1C(SC2=C1C=CC=C2)=O | C10H10BrNOS
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-chloro-1,3-dihydro-1-{1-[3-(2-oxo-3(2H)-benzothiazolyl)propyl]-4-piperidinyl}-2H-benzimidazol-2-one | 31% | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCN2C(SC3=C2C=CC=C3)=O)C=C1 | C22H23ClN4O2S
